US07612075B2
C. 2-Chloro-6-methyl naphthalene.
A solution of 6-chloro-2-methyl-1,2,3,4-tetrahydronaphthalene-2-ol (11.3 g, 57.5 mmol) and Ph3COH (16.5 g, 63 mmol) in 80 mL of TFA is stirred for 2.5 days. After this time, the solution is concentrated to dryness. The residue is dissolved in CH2Cl2. The organic layer is washed with H2O, saturated NaHCO3, and saturated NaCl. The organic layer is dried over MgSO4, filtered and concentrated. The crude product is purified by column chromatography eluting with hexanes. The title compound is obtained as a white solid (4.05 g, 22.9 mmol). 1H NMR (CDCl3, 300 MHz) δ7.78 (s, 1H), 7.69 (m, 2H), 7.58 (s, 1H), 7.50 (m, 2H), 2.49 (s, 3H).

reactant | 6-chloro-2-methyl-1,2,3,4-tetrahydronaphthalene-2-ol | 57.5 mmol, 11.3 g | ClC=1C=C2CCC(CC2=CC1)(O)C | C11H13ClO
reactant | Ph3COH | 63 mmol, 16.5 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)O | C19H16O
solvent | TFA | 80 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-Chloro-6-methyl naphthalene | ClC1=CC2=CC=C(C=C2C=C1)C | C11H9Cl
